US07678801B2
3-[8-(2,6-difluorophenyl)-2-(4-methyl-1,4′-bipiperidin-1′-yl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N,4-dimethylbenzamide
To the compound 3-[8-(2,6-difluorophenyl)-2-(4-methyl-1,4′-bipiperidin-1′-yl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (31.6 mg, 0.055 mmol) in DMF (0.5 mL) were added HBTU (25 mg, 0.066 mmol), triethylamine (15.5 uL, 0.11 mmol) and methylamine (41.3 uL, 0.0825 mmol, 2M soln in THF). The mixture was stirred at rt overnight. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (7.2 mg, 22%). LC-MS m/z 587 (M+H)+.

reactant | 3-[8-(2,6-difluorophenyl)-2-(4-methyl-1,4′-bipiperidin-1′-yl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.055 mmol, 31.6 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)N2CCC(CC2)N2CCC(CC2)C)=O | C32H33F2N5O3
reactant | HBTU | 0.066 mmol, 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.11 mmol, 15.5 uL | C(C)N(CC)CC | C6H15N
reactant | methylamine | CN | CH5N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-[8-(2,6-difluorophenyl)-2-(4-methyl-1,4′-bipiperidin-1′-yl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N,4-dimethylbenzamide | 7.2 mg, 22% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC)C=CC2C)N2CCC(CC2)N2CCC(CC2)C)=O | C33H36F2N6O2
